US09278968B2
To a solution of 430 mg of 4-(nitromethyl)-1H-pyrazole in 4.3 ml of ethyl acetate were added 0.62 ml of 3,4-dihydro-2H-pyran and 129 mg of 4-methylbenzenesulfonic acid monohydrate, followed by stirring at room temperature for 3 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 213 mg of 4-(nitromethyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole.

reactant | 4-(nitromethyl)-1H-pyrazole | 430 mg | [N+](=O)([O-])CC=1C=NNC1 | C4H5N3O2
reactant | 3,4-dihydro-2H-pyran | 0.62 ml | O1CCCC=C1 | C5H8O
reactant | 4-methylbenzenesulfonic acid monohydrate | 129 mg | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 4.3 ml | C(C)(=O)OCC | C4H8O2
product | 4-(nitromethyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 213 mg | [N+](=O)([O-])CC=1C=NN(C1)C1OCCCC1 | C9H13N3O3
